US05935972
5-Hydroxymethyl-benzofuran-7-carbaldehyde
A mixture of 5-bromo-benzofuran-7-carbaldehyde (2.02 g), hydroxymethyltributyltin (4.29 g) and tetrakis(triphenylphosphine palladium (O) (1.03 g) in dry 1,4-dioxan (8 ml) was heated at reflux for 18 h. A further portion of catalyst (203 mg) was added and heating continued for 4 h. The reaction mixture was allowed to cool, and the solution was purified by FCC eluted with hexane:ethyl acetate (1:1) to give the title compound as yellow oil (0.95 g).

reactant | 5-bromo-benzofuran-7-carbaldehyde | 2.02 g | BrC=1C=C(C2=C(C=CO2)C1)C=O | C9H5BrO2
reactant | hydroxymethyltributyltin | 4.29 g | OC[Sn](CCCC)(CCCC)CCCC
solvent | 1,4-dioxan | 8 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 1.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Hydroxymethyl-benzofuran-7-carbaldehyde | 0.95 g | OCC=1C=C(C2=C(C=CO2)C1)C=O | C10H8O3
